US07696231B2
Methyl 4-{2-[2-(5-iodo-2-oxo-1,2-dihydro-3H-indol-3-ylidene)hydrazino]-2-oxoethoxy}benzoate
Following the general method as outlined in Example 1, into a suspension of 5-iodo-1H-indole-2,3-dione in acetic acid was added methyl 4-(2-hydrazino-2-oxoethoxy)benzoate. After stirring at 100° C., the reaction mixture was cooled to rt and a yellow solid precipitated out. Filtration on a fritté, washing with AcOH, water and drying under vacuo at 60° C. overnight gave 185 mg of the title compound (77%) as a yellow solid in 99.1% purity by HPLC (Rt: 5.34, gradient of 10 min, MaxPlot detection between 230 and 400 nm).

reactant | 5-iodo-1H-indole-2,3-dione | IC=1C=C2C(C(NC2=CC1)=O)=O | C8H4INO2
reactant | methyl 4-(2-hydrazino-2-oxoethoxy)benzoate | N(N)C(COC1=CC=C(C(=O)OC)C=C1)=O | C10H12N2O4
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | Methyl 4-{2-[2-(5-iodo-2-oxo-1,2-dihydro-3H-indol-3-ylidene)hydrazino]-2-oxoethoxy}benzoate | 185 mg, 77% | IC=1C=C2C(C(NC2=CC1)=O)=NNC(COC1=CC=C(C(=O)OC)C=C1)=O | C18H14IN3O5
